US09334290B2
A mixture of 5-bromo-2-(ethoxycarbonyl)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (0.513 g, 1.34 mmol), EDC (0.384 g, 2.00 mmol), and HOBT (0.307 g, 2.00 mmol) in THF (10 mL) and DCM (1.65 mL) was stirred at room temperature for 20 min. Ammonium hydroxide (0.078 mL, 2.00 mmol) was added, and the mixture was stirred at room temperature for 60 min. The mixture was diluted with EtOAc and washed twice with saturated aqueous of NaHCO3, then with brine. The aqueous layers were extracted with EtOAc, and the combined organic layers were dried and concentrated. The residue was triturated in MeOH with sonication to provide ethyl 5-bromo-8-carbamoyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-2-carboxylate as a yellow solid (0.432 g, 84% yield). Mass spectrum m/z 383, 385 (M+H)+.

reactant | 5-bromo-2-(ethoxycarbonyl)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 1.34 mmol, 0.513 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1F)C(=O)O)C(=O)OCC | C16H15BrFNO4
reactant | EDC | 2.00 mmol, 0.384 g
reactant | HOBT | 2.00 mmol, 0.307 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ammonium hydroxide | 2.00 mmol, 0.078 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 1.65 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 5-bromo-8-carbamoyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-2-carboxylate | 0.432 g, 84% yield | BrC1=C2C=3CCC(CC3NC2=C(C=C1F)C(N)=O)C(=O)OCC | C16H16BrFN2O3
